US07829586B2
1) 1-(3,5-Difluorophenyl)-4-ethoxycarbonyl-2-methyl-imidazole
3,5-Difluoroaniline (6.75 g), ethyl nitroacetate (5.85 ml), ethyl orthoformate (9.56 ml) and acetic acid (1.2 ml) were mixed, and stirred under heating at 120° C. for 1 hour. The reaction liquid was left cooled, and the precipitated solid was collected by filtration using hexane/ethanol (1/1). Ethanol (140 ml), ethyl orthoacetate (19.1 ml) and mercury(II) chloride (714 mg) were added to the obtained solid (14.3 g). With further stirring, aluminium foil (2.84 g) was added little by little. After all the aluminium foil was dissolved, this was further stirred under heat at 80° C. for 4 hours. The reaction liquid was left cooled, then poured into a mixture of ethyl acetate and water, and the precipitated solid was removed by filtration through Celite. The filtrate was extracted with ethyl acetate, the organic layer was dried with magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane=2/1) to obtain the entitled compound (8.50 g) as a pale brown solid.

reactant | 3,5-Difluoroaniline | 6.75 g | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | ethyl nitroacetate | 5.85 ml | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
reactant | ethyl orthoformate | 9.56 ml | C(OCC)([O-])[O-]
reactant | acetic acid | 1.2 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3,5-Difluorophenyl)-4-ethoxycarbonyl-2-methyl-imidazole | 8.50 g | FC=1C=C(C=C(C1)F)N1C(=NC(=C1)C(=O)OCC)C | C13H12F2N2O2
